US07732435B2
Trifluoromethanesulfonic acid 3-(4-chlorophenyl)-2-isopropyl-8-methoxy-4-oxo-4H-chromen-7-yl ester
A solution of trifluoromethanesulfonic acid anhydride (3.5 g, 2.1 ml, 12.4 mmol, 2 eq.) in anhydrous methylene chloride (10 ml) is added dropwise to a stirred solution of sodium 3-(4-chlorophenyl)-2-isopropyl-8-methoxy-4-oxo-4H-chromen-7-olate (2.28 g, 6.22 mmol; prepared by treating 3-(4-chlorophenyl)-7-hydroxy-2-isopropyl-8-methoxy-chromen-4-one with a molar equivalent of sodium hydride in dry tetrahydrofuran), pyridine (2 g, 2.1 ml, 25.5 mmol, 4.1 eq.) and 4-dimethylaminopyridine (0.076 g, 0.62 mmol, 0.1 eq.) in anhydrous methylene chloride (60 ml) at 0° C. After stirring overnight, the solution is washed with 1M HCl solution. The organic phase is dried over anhydrous magnesium sulfate and filtered, and the solvent is removed by evaporation in vacuo to afford the title compound as a brown foam. The product is used in the next step without further purification.

reactant | trifluoromethanesulfonic acid anhydride | 12.4 mmol, 2.1 ml, 3.5 g, 2 eq. | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium 3-(4-chlorophenyl)-2-isopropyl-8-methoxy-4-oxo-4H-chromen-7-olate | ClC1=CC=C(C=C1)C1=C(OC2=C(C(=CC=C2C1=O)[O-])OC)C(C)C.[Na+]
reactant | 3-(4-chlorophenyl)-7-hydroxy-2-isopropyl-8-methoxy-chromen-4-one | ClC1=CC=C(C=C1)C1=C(OC2=C(C(=CC=C2C1=O)O)OC)C(C)C | C19H17ClO4
reactant | sodium hydride | [H-].[Na+]
reactant | pyridine | 25.5 mmol, 2.1 ml, 2 g, 4.1 eq. | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.62 mmol, 0.076 g, 0.1 eq. | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | Trifluoromethanesulfonic acid 3-(4-chlorophenyl)-2-isopropyl-8-methoxy-4-oxo-4H-chromen-7-yl ester | ClC1=CC=C(C=C1)C1=C(OC2=C(C(=CC=C2C1=O)OS(=O)(=O)C(F)(F)F)OC)C(C)C | C20H16ClF3O6S
